US04540699
To a stirred, cooled suspension of 50% sodium hydride in oil (5.73 g) in dimethoxyethane (50 ml) was added dropwise over 50 minutes a mixture of ethyl β-[N-(2-dimethylaminoethyl)- 2-oxo-4-pyridyl]propionate (25.43 g) and ethyl formate (10.60 g). The reaction temperature was maintained below 3° C., and then was allowed to warm to room temperature overnight. The reaction mixture was poured on to ice and the resultant brown solution was extracted with petroleum ether (40°-60°) (80 ml) and diethyl ether (3×60 ml). The combined organic extracts were washed with water (20 ml). The combined aqueous solution and aqueous washings were taken to pH 5 with glacial acetic acid, the solvent volume was halved by evaporation under reduced pressure and taken to pH 8 with sodium bicarbonate solution. The solvents were removed by thorough evaporation under reduced pressure and the residue taken up in hot isopropanol-acetone, filtered over diatomaceous earth and evaporated under reduced pressure to yield an oil which was washed with petroleum ether (40°-60°) to afford as a brown oil, ethyl α-formyl-β-(N-(2-dimethylaminoethyl)-2-oxo-4-pyridyl]propionate (25.05 g).

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl β-[N-(2-dimethylaminoethyl)- 2-oxo-4-pyridyl]propionate | 25.43 g | CN(CCN1C(C=C(C=C1)CCC(=O)OCC)=O)C | C14H22N2O3
reactant | ethyl formate | 10.60 g | C(=O)OCC | C3H6O2
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | ethyl α-formyl-β-(N-(2-dimethylaminoethyl)-2-oxo-4-pyridyl]propionate | 25.05 g | C(=O)C(C(=O)OCC)CC1=CC(N(C=C1)CCN(C)C)=O | C15H22N2O4
